US06265415B1
Synthesis of 8-(2-ethyl-6-methylbenzyloxy)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine
To a mixture of LiAlH4 (0.08 g, 2.1 mmol) in tetrahydrofuran (25 ml) was added 3-carboethoxy-8-(2-ethyl-6-methylbenzyloxy)-2-methylimidazo[1,2-a]pyridine (1.0 g, 2.8 mmol) in tetrahydrofuran (25 ml). After stirring the mixture at room temperature for 2 h., 0.2 ml of water was added dropwise, followed by 0.2 ml of 15% sodium hydroxide and then 0.6 ml of water. The solids were removed by filtration and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel using methylene chloride:methanol (9:1) as eluent. Crystallization from diethyl ether gave 0.52 g (60%) of the title compound.

reactant | LiAlH4 | 2.1 mmol, 0.08 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-carboethoxy-8-(2-ethyl-6-methylbenzyloxy)-2-methylimidazo[1,2-a]pyridine | 2.8 mmol, 1.0 g | C(=O)(OCC)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2C)CC)C | C21H24N2O3
reactant | water | 0.2 ml | O | H2O
reactant | sodium hydroxide | 0.2 ml | [OH-].[Na+]
reactant | water | 0.6 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 8-(2-ethyl-6-methylbenzyloxy)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine | 0.52 g, 60% | C(C)C1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CO)C(=CC=C1)C | C19H22N2O2
